US06211234B1
A mixture of methyl 4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxy)methoxybenzoate (12.1 g) and aqueous potassium carbonate solution (50 mL; 10% w/v) in methanol (200 mL) is heated at reflux for 7 hours. It is then concentrated in vacuo and the residue is treated with water (200 mL) and acidified to pH 1 by treatment with hydrochloric acid (1 N), and the resulting solid is quickly filtered off and is then washed with water. The white solid is then azeotroped with cyclohexane in a Dean-Stark apparatus until no more water is removed. The solid is filtered off, to give 4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxy)methoxybenzoic acid (6.03 g), in the form of a white solid.

reactant | methyl 4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxy)methoxybenzoate | 12.1 g | S1C=C(C=C1)COC1=CC(=C(C(=O)OC)C=C1)OCOCC[Si](C)(C)C | C19H26O5SSi
reactant | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 mL | CO | CH4O
product | 4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxy)methoxybenzoic acid | 6.03 g | S1C=C(C=C1)COC1=CC(=C(C(=O)O)C=C1)OCOCC[Si](C)(C)C | C18H24O5SSi
